*Askhsh 1 NMOS part A erwthma i
.include models_0.25.sp
*VTO = 0.4238252
* Vgs: {0.8, 1.2, 2, 2.5}
.step param VGSval list 0.8 1.2, 2, 2.5

*NMOS
Mn d g 0 0 CMOSN W=3u L=2u

Vds d 0 DC 0
Vgs g 0 DC {VGSval}

.DC Vds 0 2.5 0.05

*EXTRA for validation measure current at Vds = Vgs - Vt
.meas DC Idsat FIND Id(Mn) AT=VGSval - 0.4238252

*derivative of ID(Mn) AT Vds = Vgs - Vt
.meas DC dI_dV DERIV Id(Mn)  AT= VGSval - 0.4238252

*Measure Resistance
.meas DC Req PARAM= 1.0 / dI_dV

.PROBE Id(Mn)
.end


