*Askhsh 1 NMOS part A erwthma ii
.include models_0.25.sp
*VTO = 0.4238252

* Vgs: {0.8, 1.2, 2, 2.5}
.step param VGSval list 0.8 1.2 2 2.5

*NMOS
Mn d g 0 0 CMOSN W=3u L=2u

Vds d 0 DC 0
Vgs g 0 DC {VGSval}

.DC Vds 0 2.5 0.05

* Measure current at Vds = 2.5 V
.meas DC Idsatmax FIND Id(Mn) AT=2.5
.meas DC Idsatmin FIND Id(Mn) AT=VGSval - 0.4238252
* Calculate Req
.meas DC Req PARAM=(2.5-(VGSval - 0.4238252))/(Idsatmax - Idsatmin)

.PROBE Id(Mn)
.end

