*Askhsh 1 PMOS part A erwthma ii
.include models_0.25.sp
*VTO = -0.5536085
* Vgs: {-0.8, -1.2, -2, -2.5}
.step param VGSval list -0.8 -1.2 -2 -2.5

*PMOS
Mp d g s s CMOSP W=3u L=2u

Vss s 0 DC 2.5
Vds d s DC 0
Vgs g s DC {VGSval}

.DC Vds -2.5 0 0.05

* Measure current at Vds = -2.5 V
.meas DC Idsatmax FIND Id(Mp) AT=-2.5
.meas DC Idsatmin FIND Id(Mp) AT=VGSval + 0.5536085

* Calculate Req
.meas DC Req PARAM=abs((-2.5-(VGSval + 0.5536085))/(Idsatmax - Idsatmin))
.PROBE Id(Mp)
.end

